US05573949
8-Methoxy-1,2,3,4-tetrahydro-(2R)-2-naphthoic acid
0.743 g (0.0034 mol) of methyl 8-methoxy-1,2,3,4-tetrahydro-2-naphthoate is dissolved in 26 ml of tert-butanol, and 75 ml of phosphate buffer at pH 7 are added to the solution prepared in this way. The pH of the solution, which rises to 7.3-7.5, is lowered to 7.1 by the addition of 1 N HCl. 0.836 g of Sigma PPL enzyme (known as porcine pancreatic lipase type II, crude, Sigma L-3126 - 46 U/mg using triacetin) is added to the mixture. The pH tends to drop as the reaction progresses, but is kept constant by the addition of a 0.25 N solution of NaOH, the pH being controlled by an automatic titration apparatus. After 6.5 hours, the mixture is poured into a 5% solution of sodium bicarbonate in order to stop the reaction by inactivation of the enzyme. Extraction is carried out with ethyl ether and the two phases are separated. The organic phase contains the unreacted ester principally of (S) configuration, which can be recovered as indicated in Example 10 below. The aqueous phase is acidified with 10% sulfuric acid and extracted with chloroform; the organic phase is filtered on Celite and dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give 0.303 g of the title acid, which is crystallized from isopropyl ether. ee 95.2% (HPLC performed under conditions (d)); m.p. 137°-138° C.; [α]D25 =+54.6° (c=1.4%, CH3OH).

reactant | methyl 8-methoxy-1,2,3,4-tetrahydro-2-naphthoate | 0.0034 mol, 0.743 g | COC=1C=CC=C2CCC(CC12)C(=O)OC | C13H16O3
reactant | phosphate | 75 ml | P(=O)([O-])([O-])[O-]
reactant | HCl | 1 N | Cl | ClH
reactant | triacetin | CC(OCC(OC(C)=O)COC(C)=O)=O | C9H14O6
reactant | NaOH | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butanol | 26 ml | C(C)(C)(C)O | C4H10O
product | 8-Methoxy-1,2,3,4-tetrahydro-(2R)-2-naphthoic acid | 0.303 g | COC=1C=CC=C2CC[C@H](CC12)C(=O)O | C12H14O3
